US09227923B2
N-[2-Ethyl-4-(1,1,1,2,3,3,3-heptafluoropropan-2-yl)-6-methylphenyl]-3-nitro-4-(1H-1,2,4-triazol-1-yl)benzamide (1.3 g) was dissolved in ethanol (20 ml). To the solution, tin (II) chloride dihydrate (1.4 g) and conc. hydrochloric acid (1 ml) were added and the mixture was stirred under heating at 60° C. for 4 hours. The reaction solution was neutralized with potassium carbonate while it is vigorously stirred with addition of ethyl acetate and water. The resulting precipitates were filtered using Celite, the aqueous phase was separated from the organic phase and the aqueous phase was extracted with ethyl acetate. The organic phases were combined, washed with brine and dried over magnesium sulfate. After filtering off the drying agent, the solvent was distilled off under reduced pressure to obtain a crude product. The crude product was purified by column chromatography to obtain 3-amino-N-[2-ethyl-4-(1,1,1,2,3,3,3-heptafluoropropan-2-yl)-6-methylphenyl]-4-(1H-1,2,4-triazol-1-yl)benzamide (1.0 g, yield 97%).

reactant | N-[2-Ethyl-4-(1,1,1,2,3,3,3-heptafluoropropan-2-yl)-6-methylphenyl]-3-nitro-4-(1H-1,2,4-triazol-1-yl)benzamide | 1.3 g | C(C)C1=C(C(=CC(=C1)C(C(F)(F)F)(C(F)(F)F)F)C)NC(C1=CC(=C(C=C1)N1N=CN=C1)[N+](=O)[O-])=O | C21H16F7N5O3
reactant | tin (II) chloride dihydrate | 1.4 g | O.O.[Sn](Cl)Cl
reactant | hydrochloric acid | 1 ml | Cl | ClH
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-amino-N-[2-ethyl-4-(1,1,1,2,3,3,3-heptafluoropropan-2-yl)-6-methylphenyl]-4-(1H-1,2,4-triazol-1-yl)benzamide | 1.0 g, yield 97% | NC=1C=C(C(=O)NC2=C(C=C(C=C2C)C(C(F)(F)F)(C(F)(F)F)F)CC)C=CC1N1N=CN=C1 | C21H18F7N5O
